US08748632B2
Diethyl azodicarboxylate was added dropwise to a cooled solution of N-cyclopentyl-N, 2-dihydroxy-4-methoxybenzamide (0.71 g, 2.8 mmol), and triphenylphosphine (0.89 g, 3.4 mmol) in tetrahydrofuran (30 mL) The reaction mixture was warmed to room temperature and quenched with 1:1 CH3OH:CH3CO2H (0.2 mL). Removal of the solvent in vacuo followed by chromatographic separation on silica gel afforded 2-cyclopentyl-6-methoxybenzo[d]isoxazol-3(2H)-one as pale yellow solid (0.3 g, 46%). 1H NMR (300 MHz, DMSO-d6): δ 7.67 (d, 1H, J=8.7 Hz), 6.78 (d, 1H, J=8.6 Hz), 6.32 (s, 1H), 4.35-4.33 (m, 1H), 3.84 (s, 3H), 1.89-1.68 (m, 8H). LC-MS (ESI) Calcd for C13H15NO3 [M+H]+: 234.10. Found: 233.90.

reactant | Diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N-cyclopentyl-N, 2-dihydroxy-4-methoxybenzamide | 2.8 mmol, 0.71 g | C1(CCCC1)N(C(C1=C(C=C(C=C1)OC)O)=O)O | C13H17NO4
reactant | triphenylphosphine | 3.4 mmol, 0.89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-cyclopentyl-6-methoxybenzo[d]isoxazol-3(2H)-one | 0.3 g, 46% | C1(CCCC1)N1OC2=C(C1=O)C=CC(=C2)OC | C13H15NO3
